US04303656
2-(N,N-Dibenzylaminomethyl)-4-phenyl-3-chromene
The process of Example 4 was repeated using N,N-dibenzylglycine ethyl ester in place of N,N-dimethylalanine ethyl ester in part (a), then following the precedure in part (b) and in part (c) using phenyl lithium in place of the 4-bromochlorobenzene/butyl lithium, to yield the title compound as an oil, after dehydration in dilute HCl as in part (d).

reactant | N,N-dibenzylglycine ethyl ester | C(C)OC(CN(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C18H21NO2
reactant | phenyl lithium | C1(=CC=CC=C1)[Li]
product | 2-(N,N-Dibenzylaminomethyl)-4-phenyl-3-chromene | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)CC1OC2=CC=CC=C2C(=C1)C1=CC=CC=C1 | C30H27NO
